US06716856B1
Preparation of 1-(2-Pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole.
A mixture of 2-acetyl-5,5-dimethyl-cyclohexane-1,3-dione (0.5 g, 2.75 mmol), prepared as described in example 2, and 2-hydrazino-pyridine (0.3 g, 2.75 mmol) in ethanol (15 ml) was stirred at 80° C. for 4 hours. After evaporation of the solvent, the residue was chromatographed on silica gel (cyclohexane:ethyl acetate=10:20). The title compound was obtained as a colourless solid (0.5 g, 73%): m.p. 122-123° C.

reactant | 2-acetyl-5,5-dimethyl-cyclohexane-1,3-dione | 2.75 mmol, 0.5 g | C(C)(=O)C1C(CC(CC1=O)(C)C)=O | C10H14O3
reactant | 2-hydrazino-pyridine | 2.75 mmol, 0.3 g | N(N)C1=NC=CC=C1 | C5H7N3
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-(2-Pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | N1=C(C=CC=C1)N1N=C(C=2C(CC(CC12)(C)C)=O)C | C15H17N3O
